Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ CAD (s/p multiple PCIs,
ASA/plavix), Afib (s/p ablation), HTN, HLD, recently diagnosed
with erythema multiforme and now presenting with syncope.

About 5 days prior to presentation, patient noted some itching 
on
his back and then the following day noted a prurituc rash all
over, sparing his mucosa, palms and soles and had one episode of
fever to 101.2.  Presented to ___ on ___ and then
transferred to ___ for further evaluation.  Evaluated by
dermatology.  Noted to have target and atypical targetoid 
lesions
that were most consistent with erythema multiforme although he
lacked the classic acral involvement.  Thought to be due to his
history of cold sores although non were seen on exam.  Treated
empirically for HSV with valacyclovir.  Also prescribed
triamcinolone ointment and hydroxyzine.  Discharged home.  Since
being home, he has been feeling unwell with fatigue, weakness 
and
poor oral intake.

This morning, while walking he felt lightheaded, disoriented and
weak and then fell backwards with headstrike posteriorly on
ceramic tile.  No chest pain, palpitations or nausea.  No bowel
or bladder incontinence.  Does not think he lost consciousness. 
Witnessed by his wife, who helped him onto the toilet.  Felt 
very
weak and disoriented and then fell over while seated on the
toilet and thinks he might have lost consciousness.  Had a
headstrike again on the right-side of his head.  Family then
called ___ and took the patient to ___. VS per EMS BP
120/62 with HR 71

At ___:
- WBC 4.2, H/H 13.3/39.8, Plt 183. Na 137, K 4.4, Cl 100, CO2 
21,
BUN/Cr ___.  LFTs notable only for AST 51 and otherwise
normal.  Trop T <0.01, lactate 2.6 -> 2.  Urinalysis only 
notable
for glucose
- ECG: NSR with AV delay (PR 232), nl axis, nl R wave
progression, T wave flattening II and aVF and and TWI III, QTc
441, Q wave III aVF.  No prior for comparison
- CT head normal
- Given ___
- Transferred to ___ for further evaluation
 
In the ___ ED:
- VS: afebrile, 137/56 (137-154/56-68), 74  16  97RA
- TropT<0.01
- ECG: NSR with prolonged PR (PR 247), nl axis, nl R wave
progression, Q waves III, aVF, aVR T wave flattening in inferior
leads
- Received nothing

On arrival to the floor, patient reports headache across his
forehead since the fall that is improving.  No vision changes,
numbness or tingling.  No shortness of breath.  No cough.  No
chest pain.  No palpitations.  No orthopnea or PND.  Mild ankle
swelling.  Endorses ongoing rash that seems to becoming 
confluent
and pruritus.  No fevers over the last few days (since his
previous documented fever).  No nausea or emesis.  No diarrhea. 
No rhinorrhea or sore throat.  No black or bloody stools.

Reports that he has had angina symptoms after walking about one
block.  Reports that his angina symptoms have been getting worse
over the last 3 months.  Was supposed to have a catheterization
one month ago but he declined because of ___, and so he is
scheduled to have it done on the ___.  Last stress test about 9
months ago.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
- Pre-diabetes (reports A1c 6.9)
2. CARDIAC HISTORY  
- CAD w/ 2 prior MIs
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: last PCI was ___
where he had 4 stents and then 3 stents placed in a three week
time frame
- PACING/ICD: None  
- atrial fibrillation s/p ablation
3. OTHER PAST MEDICAL HISTORY 
- reports previous history of syncope in the setting of 
pneumonia
in ___ 
- "eczema"
- knee surgery
- bowel obstruction s/p 2 surgeries
- laminectomy, spinal stenosis
- hemorrhoidectomy
- GERD

 
Social History:
___
Family History:
Very significant history of CAD.  Mother with hypertension, 
CABG,
2 heart attacks, died of "lung and liver cancer".  She has a
family of ___ and about 7 of them died of heart attacks, 
including
her father
No family history of diabetes
 
 
Physical Exam:
ADMISSION EXAM:
VITALS:  98 PO 146 / 69 72 18 96 RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple, no JVD 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, mild tenderness to deep palpation in LLQ. No HSM 
EXTREMITIES: No c/c/e.  
SKIN: targetoid erythematous papules and plaques on the face,
extremities, trunk that are coalescing.  Oral and ocular mucosa
spared.  Slight erythematous papules on the palms and soles.  
NEURO: CNII-XII intact, moving all four extremities.

DISCHARGE EXAM:
unchanged
 
Pertinent Results:
LABS:
___ 02:26AM BLOOD WBC-3.3* RBC-4.20* Hgb-12.2* Hct-36.4* 
MCV-87 MCH-29.0 MCHC-33.5 RDW-13.8 RDWSD-43.8 Plt ___
___ 02:26AM BLOOD Neuts-75* Bands-3 Lymphs-17* Monos-5 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-2.57 AbsLymp-0.56* 
AbsMono-0.17* AbsEos-0.00* AbsBaso-0.00*
___ 02:26AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+* 
Burr-1+*
___ 02:26AM BLOOD Plt Smr-NORMAL Plt ___
___ 02:26AM BLOOD ___ PTT-27.5 ___
___ 02:26AM BLOOD Glucose-214* UreaN-19 Creat-0.9 Na-140 
K-4.2 Cl-103 HCO3-22 AnGap-15
___ 02:26AM BLOOD ALT-40 AST-36 CK(CPK)-74 AlkPhos-43 
TotBili-0.7
___ 02:26AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:15PM BLOOD cTropnT-<0.01
___ 02:26AM BLOOD Calcium-8.3* Phos-4.3 Mg-2.1

STUDIES:
=========
Echo ___
Echocardiographic Measurements   

Results  

Measurements  

Normal Range  

Left Atrium - Long Axis Dimension:   4.0 cm   <= 4.0 cm   
Left Atrium - Four Chamber Length:   *5.4 cm   <= 5.2 cm   
Left Atrium - Volume:   *61 ml   < 40 ml   
Left Atrium - ___ Volume/BSA:   28 ml/m2   <= 34 ml/m2   

Right Atrium - Four Chamber Length:   *5.4 cm   <= 5.0 cm   
Left Ventricle - Septal Wall Thickness:   1.0 cm   0.6 - 1.1 cm  
 
Left Ventricle - Inferolateral Thickness:   1.1 cm   0.6 - 1.1 
cm   
Left Ventricle - Diastolic Dimension:   4.7 cm   <= 5.6 cm   
Left Ventricle - Systolic Dimension:   3.0 cm       
Left Ventricle - Fractional Shortening:   0.36   >= 0.29   
Left Ventricle - Ejection Fraction:   >= 55%   >= 55%   
Left Ventricle - Stroke Volume:   66 ml/beat       
Left Ventricle - Cardiac Output:   4.15 L/min       
Left Ventricle - Cardiac Index:   *1.93   >= 2.0 L/min/M2   
Left Ventricle - Lateral Peak E':   *0.08 m/s   > 0.08 m/s   
Left Ventricle - Septal Peak E':   0.10 m/s   > 0.08 m/s   
Left Ventricle - Ratio E/E':   8   < 13   
Right Ventricle - Diastolic Diameter:   4.0 cm   <= 4.0 cm   
Aorta - Sinus Level:   3.5 cm   <= 3.6 cm   
Aorta - Ascending:   3.2 cm   <= 3.4 cm   
Aorta - Arch:   2.4 cm   <= 3.0 cm   
Aortic Valve - Peak Velocity:   1.1 m/sec   <= 2.0 m/sec   
Aortic Valve - LVOT VTI:   19       
Aortic Valve - LVOT diam:   2.1 cm       
Mitral Valve - E Wave:   0.7 m/sec       
Mitral Valve - A Wave:   0.9 m/sec       
Mitral Valve - E/A ratio:   0.78       
Mitral Valve - E Wave deceleration time:   *253 ms   140-250 ms  
 
TR Gradient (+ RA = PASP):   21 mm Hg   <= 25 mm Hg   
  
Findings   
LEFT ATRIUM: Normal ___ size. No ___ (best excluded 
by TEE). 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. No ASD by 2D 
or color Doppler. Normal IVC diameter (<=2.1cm) with <50% 
decrease with sniff (estimated RA pressure ___ mmHg). 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). No resting or 
Valsalva inducible LVOT gradient. No VSD. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. No 2D or Doppler evidence of distal arch coarctation. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Trace AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. No 
___ of mitral valve leaflets. Mild (1+) MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: The patient appears to be in sinus rhythm.   
Conclusions   
 The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). There 
is no left ventricular outflow obstruction at rest or with 
Valsalva. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. There is no systolic anterior motion 
of the mitral valve leaflets. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

 IMPRESSION: No structural cause for syncope identified. Normal 
biventricular systolic function.    
ICAEL Accredited  Electronically signed by ___, MD, 
Interpreting physician ___ ___ 14:17 

 
Brief Hospital Course:
SUMMARY:
========
___ w/ CAD (s/p multiple PCIs, ASA/plavix), Afib (s/p ablation), 
HTN, HLD, recent unstable angina, recently diagnosed with 
erythema multiforme and now presenting with syncope. Improved 
with PO intake, unlikely to be cardiogenic in origin.

TRANSITIONAL ISSUES:
====================
[ ] Follow up with dermatologist for rash that is consistent 
with erythema multiforme.
[ ] Follow up with cardiologist Dr. ___ for coronary 
angiogram.

#) SYNCOPE
Patient presenting with a syncopal episode. No symptoms to 
suggest seizure activity. Suspect symptoms are most likely 
secondary to orthostasis given recent poor oral intake and 
overall malaise and preceding dizziness. Cardiogenic seems less 
likely given no abnormal rhythm on telemetry, and reassuring 
echo without evidence of valvular disease. It is reassuring that 
the enzymes have remained negative and there are no ischemic 
changes on the EKG (only evidence of prior MI). Patient did have 
headstrike but CT head was normal and neurologic exam normal. 
Orthostatic vital signs were negative.

#) CAD
#) RECENT ANGINA
Patient has recent history of angina, with development of chest 
pain after walking one block. He was planned to have a cardiac 
catheterization on ___ in ___. ECG with evidence of
prior inferior infarct. Troponins were negative. Continued on 
home aspirin, Plavix, ezetimibe, rosuvastatin, and fish oil. He 
is on a regimen of rosuvastatin 10mg and zetia as he was unable 
to tolerate higher doses of rosuvastatin.

#) ERYTHEMA MULTIFORME
Patient presenting with recent diagnosis of erythema multiforme 
with unclear precipitant, possibly HSV given history of cold 
sores per dermatology. Although given history of recent malaise 
and bronchitis seen on chest x-ray, suspect patient may have had 
a viral bronchitis leading to erythema multiforme. Dermatology 
saw the patient while in house and recommended triamcinolone 
ointment BID for 2 weeks and follow up with dermatology.

#) HTN: held home ramipril given syncope which can be safely 
resumed on discharge.

#) ANEMIA: unknown baseline. H/H remained stable and no signs of 
bleeding during this admission.

#) GERD: continued home lansoprazole

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alclometasone 0.05 % topical BID 
2. HydrOXYzine 25 mg PO BID 
3. Ezetimibe 10 mg PO DAILY 
4. Ketoconazole Shampoo 1 Appl TP ASDIR 
5. Ramipril 10 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Rosuvastatin Calcium 10 mg PO QPM 
8. Bystolic (nebivolol) 20 mg oral DAILY 
9. Aspirin 81 mg PO DAILY 
10. Fish Oil (Omega 3) 1000 mg PO BID 
11. Co Q-10 (coenzyme Q10) 100 mg oral BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 

 
Discharge Medications:
1.  alclometasone 0.05 % topical BID  
2.  Aspirin 81 mg PO DAILY  
3.  Bystolic (nebivolol) 20 mg oral DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Co Q-10 (coenzyme Q10) 100 mg oral BID  
6.  Ezetimibe 10 mg PO DAILY  
7.  Fish Oil (Omega 3) 1000 mg PO BID  
8.  HydrOXYzine 25 mg PO BID  
9.  Ketoconazole Shampoo 1 Appl TP ASDIR  
10.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
11.  Ramipril 10 mg PO DAILY  
12.  Rosuvastatin Calcium 10 mg PO QPM  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Syncope

SECONDARY DIAGNOSIS: Coronary artery disease, erythema 
multiforme

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because you had a fainting 
episode at home.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- To evaluate your fainting episode, we monitored your heart 
rhythm, which was normal.
- We performed an echocardiogram which did not show any 
significant valve disease to explain your fainting episode.
- We had our dermatologists evaluate your rash and they made 
recommendations (as below).

WHAT SHOULD I DO WHEN I GO HOME?  
================================
- Please follow up with your cardiologist regarding your heart 
issues and need for catheterization.
- For your rash, please use triamcinolone twice per day for 2 
weeks. Please follow up with a dermatologist near your home.
- Please take all of your medications as prescribed.
  
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___